US08232278B2
To a mixture of 6-chloro-pyrido[3,2-d]pyrimidin-4(3H)one (3.0 g, 16.5 mmole) and N,N-diisopropylethylamine (9 ml, 50 mmole) in toluene (150 ml), was added POCl3 (4.7 ml, 50 mmol). The resulting reaction mixture was refluxed for 1.5 hour. After cooling to room temperature, the solvent was removed under reduced pressure. The residue was dissolved in dichloromethane (200 ml) and washed with cold water till pH=6-7. The organic phase was dried over MgSO4, filtrated and concentrated under reduced pressure to yield crude 4,6-dichloro-pyrido[3,2-d]pyrimidine which was not purified but used as such for further reactions.

reactant | 6-chloro-pyrido[3,2-d]pyrimidin-4(3H)one | 16.5 mmole, 3.0 g | ClC=1C=CC=2N=CNC(C2N1)=O | C7H4ClN3O
reactant | N,N-diisopropylethylamine | 50 mmole, 9 ml | C(C)(C)N(C(C)C)CC | C8H19N
reactant | POCl3 | 50 mmol, 4.7 ml | O=P(Cl)(Cl)Cl | Cl3OP
solvent | toluene | 150 ml | C1(=CC=CC=C1)C | C7H8
product | 4,6-dichloro-pyrido[3,2-d]pyrimidine | ClC=1C2=C(N=CN1)C=CC(=N2)Cl | C7H3Cl2N3
